US09422331B2
To a stirred solution of L-threonine benzyl ester oxalate (5 g, 16.7 mmol) and sodium bicarbonate (4.21 g, 50.1 mmol) in H2O (35 ml), methanol (35 ml) and di-tert-butyl dicarbonate (5.1 g, 23.4 mmol) were added. The mixture was stirred overnight, then concentrated, acidified to pH ˜5 with 0.5 N HCl, and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, concentrated, and purified by column chromatography to provide (2S,3R)-benzyl 2-(tert-butoxycarbonylamino)-3-hydroxybutanoate (4.6 g, 89%).

reactant | L-threonine benzyl ester oxalate | 16.7 mmol, 5 g | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)OC([C@@H](N)[C@H](O)C)=O
reactant | sodium bicarbonate | 50.1 mmol, 4.21 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 23.4 mmol, 5.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 35 ml | O | H2O
solvent | methanol | 35 ml | CO | CH4O
product | (2S,3R)-benzyl 2-(tert-butoxycarbonylamino)-3-hydroxybutanoate | 4.6 g, 89% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)[C@@H](C)O | C16H23NO5
